US06727256B1
(6-Chloropyrido[3,4-d]pyrimidin-4-yl)-(4-(4-fluorobenzyloxy)-phenyl)-amine
4,6-Dichloro-pyrido[3,4-d]pyrimidine (1 g) and 4-(4-fluorobenzyloxy)aniline (1.08 g) in acetonitrile (70 ml) were reacted together as in Procedure A. The product was collected by filtration as a yellow solid (1.83 g); m/z 381 (M+1)+.

reactant | 4,6-Dichloro-pyrido[3,4-d]pyrimidine | 1 g | ClC=1C2=C(N=CN1)C=NC(=C2)Cl | C7H3Cl2N3
reactant | 4-(4-fluorobenzyloxy)aniline | 1.08 g | FC1=CC=C(COC2=CC=C(N)C=C2)C=C1 | C13H12FNO
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | (6-Chloropyrido[3,4-d]pyrimidin-4-yl)-(4-(4-fluorobenzyloxy)-phenyl)-amine | ClC1=CC2=C(N=CN=C2NC2=CC=C(C=C2)OCC2=CC=C(C=C2)F)C=N1 | C20H14ClFN4O
